US04429126
To a suspension of 4-oxo-10-(2,3-dimethylpentanamido)-4H-pyrimido[1,2-C]quinazoline-3-carboxylic acid (7.0 g) in N,N-dimethylformamide (93 ml) was added tris(hydroxymethyl)aminomethane (2.3 g) and methanol (47 ml) under stirring and stirred for 2 hours at ambient temperature. The insoluble materials was removed by filtration, and to the filtrate was added ether (60 ml) with stirring. The resultant precipitate was collected by filtration and washed with ether, and dried under reduced pressure to give tris(hydroxymethyl)methylammonium 4-oxo-10-(2,3-dimethylpentanamido)-4H-pyrimido[1,2-C]quinazoline-3-carboxylate (3.15 g).

reactant | 4-oxo-10-(2,3-dimethylpentanamido)-4H-pyrimido[1,2-C]quinazoline-3-carboxylic acid | 7.0 g | O=C1C(=CN=C2N1C=NC=1C=CC(=CC21)NC(C(C(CC)C)C)=O)C(=O)O | C19H20N4O4
reactant | tris(hydroxymethyl)aminomethane | 2.3 g | C(C(CO)(CO)N)O | C4H11NO3
reactant | methanol | 47 ml | CO | CH4O
solvent | N,N-dimethylformamide | 93 ml | CN(C=O)C | C3H7NO
product | tris(hydroxymethyl)methylammonium 4-oxo-10-(2,3-dimethylpentanamido)-4H-pyrimido[1,2-C]quinazoline-3-carboxylate | 3.15 g | O=C1C(=CN=C2N1C=NC=1C=CC(=CC21)NC(C(C(CC)C)C)=O)C(=O)[O-].OC[N+](C)(CO)CO | InChI=1S/C19H20N4O4.C4H12NO3/c1-4-10(2)11(3)17(24)22-12-5-6-15-13(7-12)16-20-8-14(19(26)27)18(25)23(16)9-21-15;1-5(2-6,3-7)4-8/h5-11H,4H2,1-3H3,(H,22,24)(H,26,27);6-8H,2-4H2,1H3/q;+1/p-1
